US06872809B2
The thus-obtained 5′-azido-5′-deoxyinosine was then dissolved in methanol and reduced with hydrogen for 12 hours using palladium-on-carbon Pd/C (10%, 80 mg) as a catalyst, whereby 5′-amino-5′-deoxyinosine was obtained.

reactant | 5′-azido-5′-deoxyinosine | N(=[N+]=[N-])C[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(O)=NC=NC12)O)O | C10H11N7O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 5′-amino-5′-deoxyinosine | Yield 91% | NC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(O)=NC=NC12)O)O | C10H13N5O4
